US04908363
9.9 g of 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-propylimidazole are hydrogenated at normal pressure and room temperature in 200 ml of methanol and 29 ml of 1N hydrochloric acid in the presence of 1 g of a palladium catalyst (5% on carbon). After 700 ml of hydrogen have been taken up, the catalyst is removed by filtration and the filtrate is evaporated. The residue is taken up with 100 ml of water, and saturated sodium bicarbonate solution is added up to a neutral reaction (pH=7). The separated crystals are removed by filtration and taken up in 300 ml of methylene chloride. The methylene chloride solution is washed once with water, dried and evaporated. The residue is dissolved in 50 ml of hot isopropyl ether. The crystals which separate upon cooling are removed by filtration, washed with isopropyl ether and n-hexane and dried at 60° in a vacuum. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-propylimidazole of m.p. 122°-123°.

reactant | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-propylimidazole | 9.9 g | OC1=C(C=C(C=NN2C(=NC=C2)CCC)C=C1C(C)(C)C)C(C)(C)C | C21H31N3O
reactant | hydrochloric acid | 1N, 29 ml | Cl | ClH
reactant | hydrogen | 700 ml | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium | 1 g | [Pd] | Pd
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-propylimidazole | OC1=C(C=C(CNN2C(=NC=C2)CCC)C=C1C(C)(C)C)C(C)(C)C | C21H33N3O
